US06900243B2
a) [3-(5-Chloro-2-cyanophenoxy)hexyl]methylcarbamic Acid 1,1-dimethylethyl ester
The title compound was prepared according to the method of Example 3 step (b) but using 4-chloro-2-fluorobenzonitrile and (3-hydroxyhexyl)methylcarbamic acid 1,1-dimethylethyl ester.

reactant | 4-chloro-2-fluorobenzonitrile | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | (3-hydroxyhexyl)methylcarbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(N(C)CCC(CCC)O)=O | C12H25NO3
product | [3-(5-Chloro-2-cyanophenoxy)hexyl]methylcarbamic Acid 1,1-dimethylethyl ester | CC(C)(C)OC(N(C)CCC(CCC)OC1=C(C=CC(=C1)Cl)C#N)=O | C19H27ClN2O3
